US06069176
5-(3,4-Dimethoxyphenyl)cyclohexan-1,3-dione (31.8 g) was suspended in ethanol (500 ml), and concentrated hydrochloric acid (20 ml) was added prior to reflux for 3 hours. After the reaction solvent was concentrated under reduced pressure, it was dissolved in chloroform and washed with saturated sodium bicarbonate water. After drying with anhydrous magnesium sulfate, the solvent was concentrated under reduced pressure producing crude crystals which were then washed with diethyl ether to give 10.3 g of 5-(3,4-dimethoxyphenyl)-3-ethoxy-2-cyclohexen-1-one (29.1%).

reactant | 5-(3,4-Dimethoxyphenyl)cyclohexan-1,3-dione | 31.8 g | COC=1C=C(C=CC1OC)C1CC(CC(C1)=O)=O | C14H16O4
reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | ethanol | 500 ml | C(C)O | C2H6O
product | 5-(3,4-dimethoxyphenyl)-3-ethoxy-2-cyclohexen-1-one | 10.3 g, 29.1% | COC=1C=C(C=CC1OC)C1CC(=CC(C1)=O)OCC | C16H20O4
